US08202879B2
4-Chloroquinazoline-6-carboxylic acid methoxymethylamide (XIV-1, 5.78 g) was dissolved in tetrahydrofuran (100 ml), and 5.39 g of 3-chloro-4 (pyridin-2-ylmethoxy)aniline was added, followed by stirring at 60° C. for 1 hour. A precipitate was filtered, and washed with tetrahydrofuran to obtain 4-(3-chloro-4-(pyridin-2-ylmethoxy)phenylamino)-quinazoline-6-carboxylic acid methoxymethylamide (XI-2, 7.87 g) as a white solid. The filtrate was allowed to stand at room temperature, and the resulting precipitate was collected by filtration, to newly obtain 2.21 g of XI-2.

reactant | 4-Chloroquinazoline-6-carboxylic acid methoxymethylamide | 5.78 g | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)Cl | C11H10ClN3O2
reactant | 3-chloro-4 (pyridin-2-ylmethoxy)aniline | 5.39 g | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(3-chloro-4-(pyridin-2-ylmethoxy)phenylamino)-quinazoline-6-carboxylic acid methoxymethylamide | 7.87 g | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C23H20ClN5O3
